US04728650
To a solution composed of 3.34 g of (3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)acetic acid, 2 drops of N,N-dimethylformamide and 50 ml of benzene was added 0.87 ml of thionyl chloride, and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was evaporated under reduced pressure to remove the low-boiling substances. The above procedure gave (3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)acetyl chloride in a quantitative yield of 3.56 g.

reactant | (3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)acetic acid | 3.34 g | COC=1C(=C(C2=C(CCC(O2)(C)CC(=O)O)C1C)C)C | C16H22O4
reactant | thionyl chloride | 0.87 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)acetyl chloride | quantitative yield | COC=1C(=C(C2=C(CCC(O2)(C)CC(=O)Cl)C1C)C)C | C16H21ClO3
